US06624186B2
4-amino-5-(benzylamino)benzo-2,1,3-thiadiazole (5a).
To a solution of 5-chloro-4-nitro-2,1,3-thiadiazole (1.0 g, 4.64 mmol) in anhydrous NMP (5 ml) was added triethylamine (0.65 ml, 4.64 mmol) and benzylamine (0.51 ml, 4.64 mmol). The mixture was heated to 80° C. for 1 hour. The cooled mixture was poured into ice-water (50 ml) and the product was filtered off, washed with water and dried. Yield: 1 g (75%). This product (0.5 g, 1.75 mmol) was suspended in ethanol (20 ml) and hydrogenated at ambient pressure using palladium (5% on activated carbon) as the catalyst. Yield: quantitative.

reactant | 5-chloro-4-nitro-2,1,3-thiadiazole | 4.64 mmol, 1.0 g | ClC=1C(=NSN1)[N+](=O)[O-] | C2ClN3O2S
reactant | triethylamine | 4.64 mmol, 0.65 ml | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 4.64 mmol, 0.51 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | NMP | 5 ml | CN1CCCC1=O | C5H9NO
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 4-amino-5-(benzylamino)benzo-2,1,3-thiadiazole | Yield: quantitative | NC1=C(C=CC2=NSN=C21)NCC2=CC=CC=C2 | C13H12N4S
